US06121251
Preparation of Methyl N-hydroxy-N-2-methylphenylcarbamate
To a 250 ml 3-neck RBF, stirring under nitrogen atmosphere, was charged 16.1 g (1.0 eq., 0.13 moles) N-2-methylphenylhydroxyamine in 40 ml methylene chloride and 16.8 g (1.5 eq., 0.20 moles) sodium bicarbonate neat. With a pipet added 13.1 g (1.05 eq, 0.37 moles) methyl chloroformate neat to the mixture at -5° C. to +5° C. The reaction mixture was stirred at 0° C. for 30 min. following the addition and the reaction was monitored by GC.

reactant | N-2-methylphenylhydroxyamine | 0.13 moles, 16.1 g, 1.0 eq. | CC1=C(C=CC=C1)NO | C7H9NO
reactant | sodium bicarbonate | 0.20 moles, 16.8 g, 1.5 eq. | C([O-])(O)=O.[Na+]
reactant | methyl chloroformate | 0.37 moles, 13.1 g, 1.05 eq | ClC(=O)OC | C2H3ClO2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | Methyl N-hydroxy-N-2-methylphenylcarbamate | ON(C(OC)=O)C1=C(C=CC=C1)C | C9H11NO3
